US06087380
2-[2-(4-amidinophenyl)ethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 9 from 2-[2-(4-cyanophenyl)ethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 80% of theory, C28H28N4O3S (500.62) Rf value: 0.30 (silica gel; methylene chloride/ethanol=4:1+a few drops of acetic acid) EKA mass spectrum: (M+H)+ =501

reactant | 2-[2-(4-cyanophenyl)ethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CCC2=CC=C(C=C2)C#N)C1)CCC(=O)OCC | C28H25N3O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | 2-[2-(4-amidinophenyl)ethyl]-benzothiazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 80% | Cl.C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CCC2=CC=C(C=C2)C(N)=N)C1)CCC(=O)OCC | InChI=1S/C28H28N4O3S.ClH/c1-2-35-26(33)16-17-32(22-6-4-3-5-7-22)28(34)21-13-14-24-23(18-21)31-25(36-24)15-10-19-8-11-20(12-9-19)27(29)30;/h3-9,11-14,18H,2,10,15-17H2,1H3,(H3,29,30);1H
